US07452901B2
A solution of 2-(4-bromo-but-2-enyl)-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester (140 mg, 0.30 mmol) and triethylphosphite (600 mg, 3.6 mmol) in toluene (30 mL) was stirred at reflux for 20 h. The mixture was concentrated and chromatographed on silica gel eluting with ethyl acetate (60% to 100%)/hexanes, affording 2-[4-(diethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester as an oil (70 mg, 43%); 1H NMR (300 MHz, CDCl3) δ 1.27 (m, 6H), 1.79 (s, 3H), 2.0-2.7 (m, 8H), 3.37 (d, J=6.6 Hz), 3.52 (s, 3H), 3.75 (s, 3H), 4.08 (m, 4H), 5.20 m, 3H), 5.45 (m, 2H).

reactant | 2-(4-bromo-but-2-enyl)-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester | 0.30 mmol, 140 mg | COC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)CC=CCBr)=O | C22H27BrO6
reactant | triethylphosphite | 3.6 mmol, 600 mg | C(C)OP(OCC)OCC | C6H15O3P
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[4-(diethoxy-phosphoryl)-but-2-enyl]-6-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-4-methyl-hex-4-enoic acid methyl ester | 70 mg, 43% | COC(C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)C)CC=CCP(=O)(OCC)OCC)=O | C26H37O9P
